US08859544B2
(4-Aminophenyl)(2-methylindolizin-3-yl)methanone
5.66 g (86.57 mmol) of zinc and 20.63 ml (360.71 mmol) of glacial acetic acid are added to 6.74 g (24.05 mmol) of (2-methylindolizin-3-yl)(4-nitrophenyl)methanone in 120 ml of a 2/1 mixture of water and ethanol. The reaction medium is heated at 80° C. for 4 hours. 0.57 g (8.7 mmol) of zinc and 2.06 ml of glacial acetic acid are added. Refluxing is maintained for 1 hour. At ambient temperature, the reaction medium is filtered off. The residue obtained is rinsed with ethyl acetate and with methyl THF. The organic phase is washed with a saturated aqueous solution of sodium hydrogen carbonate and then with a saturated aqueous solution of sodium chloride, dried over sodium sulphate, and then concentrated under reduced pressure. The residue obtained is purified by silica gel column chromatography, elution being carried out with a dichloromethane/methanol (90/10) mixture. 4.9 g of a yellow solid are obtained.

reactant | (2-methylindolizin-3-yl)(4-nitrophenyl)methanone | 24.05 mmol, 6.74 g | CC=1C=C2C=CC=CN2C1C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C16H12N2O3
reactant | water | O | H2O
reactant | ethanol | C(C)O | C2H6O
catalyst | zinc | 86.57 mmol, 5.66 g | [Zn] | Zn
catalyst | zinc | 8.7 mmol, 0.57 g | [Zn] | Zn
solvent | acetic acid | 2.06 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 360.71 mmol, 20.63 ml | C(C)(=O)O | C2H4O2
product | (4-Aminophenyl)(2-methylindolizin-3-yl)methanone | 4.9 g | NC1=CC=C(C=C1)C(=O)C1=C(C=C2C=CC=CN12)C | C16H14N2O
